US07713994B2
(4Z)-6-Bromo-4-({[4-(hexyloxy)-3-hydroxybenzyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
To a solution of 1-bromohexane (40.0 μl, 0.28 mmol) and tetrabutylammonium iodide (104 mg, 0.283 mmol) in anhydrous N,N-dimethylformamide (2 ML) is added of potassium carbonate (207 mg, 1.5 mmol). The mixture stirred at room temperature and (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (100 mg, 0.26 mmol) is added. After the mixture is stirred at 65° C. for 30 min, the resulting mixture is concentrated and the residue is then partitioned between water (20 ml) and ethyl acetate (20 ml). The organic layer is then dried and purified by high performance liquid chromatography to give 35 mg of a white solid. MS (ESI) m/z 472.5 (M+1).

reactant | 1-bromohexane | 0.28 mmol, 40.0 μl | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4Z)-6-bromo-4-{[(3,4-dihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.26 mmol, 100 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)O)O | C17H13BrN2O4
catalyst | tetrabutylammonium iodide | 0.283 mmol, 104 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-({[4-(hexyloxy)-3-hydroxybenzyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 35 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OCCCCCC)O | C23H25BrN2O4
